US08309567B2
Potassium t-butoxide (1.56 g) was added portionwise to a stirred suspension of methoxymethyltriphenylphosphonium chloride (4.76 g) in tetrahydrofuran (30 ml) at 0° C. under argon. The resulting orange mixture was stirred at 0° C. for 30 min., then 1-(4-chlorocinnamyl)-3-methyl-piperidin-4-one (1.83 g, prepared by alkylation of 3-methyl-piperidin-4-one [CAS No 5773-58-0] with 4-chloro-cinnamyl chloride) dissolved in a minimum volume of tetrahydrofuran was added dropwise and the resulting solution was stirred at room temperature for 1 hour, poured into water and extracted twice with ether. The combined organic layers were dried over sodium sulphate and concentrated in vacuo. The residue was purified by silica gel chromatography (cyclohexane:ethyl acetate 75:25) to afford 1-(4-chlorocinnamyl)-4-[1-methoxy-methylidene]-3-methyl-piperidine as a mixture of diastereoisomers. MS (ES+) 292/294 (M+H+).

reactant | Potassium t-butoxide | 1.56 g | CC(C)([O-])C.[K+]
reactant | methoxymethyltriphenylphosphonium chloride | 4.76 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-(4-chlorocinnamyl)-3-methyl-piperidin-4-one | ClC1=CC=C(C=CCN2CC(C(CC2)=O)C)C=C1 | C15H18ClNO
reactant | 3-methyl-piperidin-4-one | CC1CNCCC1=O | C6H11NO
reactant | 4-chloro-cinnamyl chloride | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-chlorocinnamyl)-4-[1-methoxy-methylidene]-3-methyl-piperidine | ClC1=CC=C(C=CCN2CC(C(CC2)=COC)C)C=C1 | C17H22ClNO
